US04410520
A solution of 3-chloro-8-methoxy-2,3,4,5-tetrahydro-1H-[1]-benzazepin-2-one (12.5 g) and sodium azide (4.3 g) in dimethylsulfoxide (150 ml) was maintained at 80° under an atmosphere of nitrogen for 3 hours. The reaction mixture was poured into ice/water (300 ml) and the suspension was stirred for 30 minutes. The solid was filtered off, washed with water (50 ml) and dried to give 3-azido-8-methoxy-2,3,4,5-tetrahydro-1H-[1]-benzazepin-2-one, m.p. 136°-138°.

reactant | 3-chloro-8-methoxy-2,3,4,5-tetrahydro-1H-[1]-benzazepin-2-one | 12.5 g | ClC1C(NC2=C(CC1)C=CC(=C2)OC)=O | C11H12ClNO2
reactant | sodium azide | 4.3 g | [N-]=[N+]=[N-].[Na+]
solvent | dimethylsulfoxide | 150 ml | CS(=O)C | C2H6OS
product | 3-azido-8-methoxy-2,3,4,5-tetrahydro-1H-[1]-benzazepin-2-one | N(=[N+]=[N-])C1C(NC2=C(CC1)C=CC(=C2)OC)=O | C11H12N4O2
